US07176322B2
Methyl 5-ethyl-1,2,5,6-tetrahydropyrido[3,4-b]indole-8-carboxylate
Ethyl 1,2,5,6-tetrahydropyrido[3,4-b]indole-8-carboxylate (0.62 g, 2.68 mmol) was dissolved in DMF (10 mL) and cooled to 0° C. Sodium hydride (60% suspension in mineral oil, 0.16 g, 6.7 mmol) was added and the mixture stirred for 45 min prior to addition of ethyl iodide (0.50 g, 3.22 mmol). The mixture was stirred for 15 hours, then quenched with water and extracted with ethyl acetate. The organic layer was then removed and the crude was redissolved in acetonitrile and then washed with hexane to remove the mineral oil. The acetonitrile layer was evaporated to afford 0.5 g of title compound.

reactant | Ethyl 1,2,5,6-tetrahydropyrido[3,4-b]indole-8-carboxylate | 2.68 mmol, 0.62 g | C1NC=CC2=C1NC=1C(=CCCC21)C(=O)OCC | C14H16N2O2
reactant | Sodium hydride | 6.7 mmol, 0.16 g | [H-].[Na+]
reactant | ethyl iodide | 3.22 mmol, 0.50 g | C(C)I | C2H5I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Methyl 5-ethyl-1,2,5,6-tetrahydropyrido[3,4-b]indole-8-carboxylate | 0.5 g | C(C)C1C=2C3=C(NC2C(=CC1)C(=O)OC)CNC=C3 | C15H18N2O2
